US09446348B2
1-(2,3-Dihydroxypropyl)-3-methylimidazolium Chloride (RTIL 1)
1-Methylimidazole (8.21 g, 100 mmol) and 3-chloro-1,2-propanediol (11.05 g, 100.0 mmol) were stirred in a 130° C. oil bath for 48 h, after which the flask was placed under vacuum and stirring continued at 130° C. for another 48 h. The residue was then dissolved in CH3OH, transferred to a tared flask and concentrated to afford the product as a viscous brown oil (19.3 g, 100%). 1H NMR: δH ppm (400 MHz; DMSO-d6) 3.19-3.29 (m, 1H) 3.36-3.48 (m, 1H) 3.77 (dd, J=6.78, 4.21 Hz, 1H) 3.87 (s, 3H) 4.10 (dd, J=13.74, 7.69 Hz, 1H) 4.32 (dd, J=13.74, 3.11 Hz, 1H) 5.13 (br. s., 1H) 5.53 (d, J=5.13 Hz, 1H) 7.72 (t, J=1.74 Hz, 1H) 7.74 (t, J=1.74 Hz, 1H) 9.18 (s, 1H).

reactant | 1-Methylimidazole | 100 mmol, 8.21 g | CN1C=NC=C1 | C4H6N2
reactant | 3-chloro-1,2-propanediol | 100.0 mmol, 11.05 g | ClCC(CO)O | C3H7ClO2
solvent | CH3OH | CO | CH4O
product | 1-(2,3-Dihydroxypropyl)-3-methylimidazolium Chloride | 19.3 g, 100% | [Cl-].OC(C[N+]1=CN(C=C1)C)CO | InChI=1S/C7H13N2O2.ClH/c1-8-2-3-9(6-8)4-7(11)5-10;/h2-3,6-7,10-11H,4-5H2,1H3;1H/q+1;/p-1
